US07262185B2
A solution of 1-(4-aminophenyl)-2-(1-propylimidazol-2-yl)ethanone (600 mg) and hydroxylamine hydrochloride (223 mg) in ethanol (20 ml) was refluxed for 1 day. After the mixture was allowed to be at room temperature, and saturated sodium bicarbonate solution was added to the mixture, the mixture was extracted with ethyl acetate and washed with water and saturated brine. The mixture was dried over magnesium sulfate, and the solvent was distilled off under reduced pressure. The obtained residue was washed with ethyl acetate-diisopropyl ether to give (1E)-1-(4-aminophenyl)-2-(1-propylimidazol-2-yl)ethanone oxime (419 mg) as yellow crystals.

reactant | 1-(4-aminophenyl)-2-(1-propylimidazol-2-yl)ethanone | 600 mg | NC1=CC=C(C=C1)C(CC=1N(C=CN1)CCC)=O | C14H17N3O
reactant | hydroxylamine hydrochloride | 223 mg | Cl.NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | (1E)-1-(4-aminophenyl)-2-(1-propylimidazol-2-yl)ethanone oxime | 419 mg | NC1=CC=C(C=C1)/C(/CC=1N(C=CN1)CCC)=N/O | C14H18N4O
